US05310743
i) (2R*,4S*)-2-Benzyl-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine
250 n-A of 6N hydrogen chloride in dioxane is added dropwise over the course of 3 minutes to 7.73 g (14.7 mmol) of (2R*,4S*)-2-benzyl-1-t-butyloxycarbonyl-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine while cooling in ice, and the mixture is subsequently stirred at room temperature for 1 hour. The reaction mixture is concentrated in a rotary evaporator, basified with 1N sodium bicarbonate solution and extracted with methylene chloride. The organic phases are dried over magnesium sulfate and evaporated to dryness. The brownish oil (7.14 g) is chromatographed on silica gel with methylene chloride/methanol/conc. ammonia (700:50:1). The title compound is obtained as yellow oil. TLC: methylene chloride/methanol/conc. ammonia (700:50:1) Rf =0.42, DCI-MS: (M+H)+ =428, IR: 1690 cm-1.

reactant | hydrogen chloride | 6N | Cl | ClH
reactant | (2R*,4S*)-2-benzyl-1-t-butyloxycarbonyl-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine | 14.7 mmol | C(C1=CC=CC=C1)[C@H]1N(CC[C@@H](C1)N(C(C(F)(F)F)=O)CC1=CC=NC2=CC=CC=C12)C(=O)OC(C)(C)C | C29H32F3N3O3
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (2R*,4S*)-2-Benzyl-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine | C(C1=CC=CC=C1)[C@H]1NCC[C@@H](C1)N(C(C(F)(F)F)=O)CC1=CC=NC2=CC=CC=C12 | C24H24F3N3O
